US09403849B2
c) 10-(4-Methylnaphth-1-yl)anthracene-9-boronic acid pinacol ester
44.0 ml (110 mmol) of n-butyllithium (2.5M in n-hexane) are added over the course of 20 min. to a vigorously stirred suspension, cooled to −78° C., of 39.7 g (100 mmol) of 9-bromo-10-(4-methylnaphth-1-yl)anthracene in 1000 ml of diethyl ether, and the mixture is subsequently stirred at −78° C. for 30 min. The suspension is allowed to warm to 20° C. over the course of 2 h, is stirred at 20° C. for a further 2 h and re-cooled to −78° C. 28.0 ml (250 mol) of trimethyl borate are added over the course of 5 min. with vigorous stirring, and the suspension is allowed to re-warm to 20° C. After 15 h at 20° C., a mixture of 15.0 ml (250 mol) of acetic acid in 200 ml of water is added, and the mixture is stirred at room temperature for a further 5 h. After the water phase has been separated off, the organic phase is evaporated to dryness under reduced pressure. 300 ml of n-hexane are added to the slurry which remains, and the mixture is stirred vigorously for 1 h. The solid formed is subsequently filtered off with suction, washed twice with 100 ml of n-hexane and sucked dry. The solid is suspended in 150 ml of toluene, 13.0 g (110 mmol) of pinacol are added, and the mixture is boiled on a water separator for 5 h. The crystals deposited after cooling of the toluene solution are filtered off with suction, recrystallised twice from DMSO and subsequently sublimed (T=350° C., p=5×10−5 mbar); yield: 30.4 g (68.4% of theory), 99.9% according to 1H-NMR.

reactant | n-butyllithium | 110 mmol, 2.5M, 44.0 ml | C(CCC)[Li]
reactant | 9-bromo-10-(4-methylnaphth-1-yl)anthracene | 100 mmol, 39.7 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=C(C2=CC=CC=C12)C | C25H17Br
reactant | trimethyl borate | 250 mol, 28.0 ml | B(OC)(OC)OC | C3H9BO3
reactant | acetic acid | 250 mol, 15.0 ml | C(C)(=O)O | C2H4O2
reactant | pinacol | 110 mmol, 13.0 g | OC(C)(C)C(C)(C)O | C6H14O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 1000 ml | C(C)OCC | C4H10O
solvent | water | 200 ml | O | H2O
product | 10-(4-Methylnaphth-1-yl)anthracene-9-boronic acid pinacol ester | CC1=CC=C(C2=CC=CC=C12)C1=C2C=CC=CC2=C(C2=CC=CC=C12)B1OC(C)(C)C(C)(C)O1 | C31H29BO2
